### PR TITLE
feat(AlgebraicGeometry): direct summand theorem and derived variant

### PR DESCRIPTION
**Pull request by alreadydone**

### CODE REVIEW

File: LeanEval/AlgebraicGeometry/DirectSummand.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+instance {C : Type*} [Category C] {J : GrothendieckTopology C} (R : Sheaf J RingCat) (X : Cᵒᵖ) :
+    (SheafOfModules.evaluation R X).Additive where
+  map_add := rfl
+
+@[eval_problem] theorem derived_direct_summand [HasDerivedCategory (ModuleCat A)]
+    (X : Scheme) (f : X ⟶ Spec (.of A)) [IsProper f] (surj : Function.Surjective f)
+    [HasDerivedCategory (SheafOfModules X.ringCatSheaf)] :
+    let φ : A →+* Γ(X, ⊤) := ((ΓSpec.adjunction.homEquiv _ _).symm f).unop.hom
+    let : Algebra A Γ(X, ⊤) := φ.toAlgebra
+    ∀ _ : EnoughInjectives (SheafOfModules X.ringCatSheaf), IsSplitMono <|
```
Comment (alreadydone) [inline LeanEval/AlgebraicGeometry/DirectSummand.lean:72]: The EnoughInjective instance will become available after https://github.com/leanprover-community/mathlib4/pull/41383; for now we just assume it.

**Comment by kim-em** [comment]
:robot: Claude says:

Three changes, one of them a soundness bug.

**`direct_summand` is false as stated.** It assumes `Module.Finite A B` but not that `A → B` is injective, so `B` need not be an *extension* of `A`. Counterexample at `A = ℤ`, `B = ZMod 2` (both `IsRegularRing ℤ` and `Module.Finite ℤ (ZMod 2)` are found by `infer_instance`):

```lean
example : ¬ (∃ π : (ZMod 2) →ₗ[ℤ] ℤ, π ∘ₗ Algebra.linearMap ℤ (ZMod 2) = .id) := by
  rintro ⟨π, hπ⟩
  have h1 : π (Algebra.linearMap ℤ (ZMod 2) 1) = 1 := by
    rw [← LinearMap.comp_apply, hπ]; rfl
  have h2 : (2 : ℤ) • (Algebra.linearMap ℤ (ZMod 2) 1) = 0 := by decide
  have h3 := π.map_smul (2 : ℤ) (Algebra.linearMap ℤ (ZMod 2) 1)
  rw [h2, map_zero, h1] at h3
  simp at h3
```

Adding `(hinj : Function.Injective (algebraMap A B))` fixes it.

**The file does not compile.** `open CategoryTheory AlgebraicGeometry` sits inside `namespace LeanEval.AlgebraicGeometry.DirectSummand`, so `AlgebraicGeometry` resolves to the enclosing `LeanEval.AlgebraicGeometry` and the scoped `Γ(_, _)` notation never comes into scope:

```
DirectSummand.lean:66:19: error: unexpected token '('; expected ':=' or '|'
```

`open CategoryTheory _root_.AlgebraicGeometry` fixes it, and with that one change the whole file elaborates clean. (#516 avoids this by putting the `open` before the `namespace`.)

**`manifests/problems/direct_summand.lean` needs to be `.toml`.** This is also why CI is green despite the compile error: `loadManifest` only reads `*.toml`, and both `validate-manifest` and `check-problem-build` take their work list from it, so the module is never built and the problem is not in the benchmark at all.

On `derived_direct_summand` itself, I traced the composite and it says the right thing. `singleFunctor.map (ofHom (Algebra.linearMap A Γ(X, ⊤)))` is `A[0] ⟶ Γ(X, 𝒪_X)[0]`, and `rightDerivedFunctorPlusUnit'` at `SheafOfModules.unit` is `(F ⋙ single).obj 𝒪_X ⟶ (single ⋙ RF).obj 𝒪_X`, i.e. `Γ(X, 𝒪_X)[0] ⟶ RΓ(X, 𝒪_X)`, so `IsSplitMono` of the composite is exactly de Jong's splitting. No hypotheses are missing: Noetherianity comes with `IsRegularRing` (it extends `IsNoetherianRing`), and quasi-compactness comes from `UniversallyClosed`. Two remarks:

* Once `direct_summand` gains the injectivity hypothesis it becomes a corollary of `derived_direct_summand`: take `X = Spec B`, where module-finite plus injective makes `Spec B ⟶ Spec A` finite hence proper, and surjective by lying over, with `RΓ(Spec B, 𝒪) = B`. Worth deciding whether you want both as separate holes.
* `EnoughInjectives (SheafOfModules X.ringCatSheaf)` is true but handed to the solver, so the statement's meaning depends on a supplied instance rather than a canonical one. Harmless, since all choices give canonically isomorphic derived functors, but worth a conscious decision.

**Comment by alreadydone** [comment]
Thanks to Claude for catching the error in the statement of `direct_summand`: I've added the necessary FaithfulSMul condition, equivalent to injectivity of the algebraMap. I moved the statement to the end, since it follows from the derived version, as you pointed out.

I moved `open CategoryTheory AlgebraicGeometry` before entering the `LeanEval.AlgebraicGeometry` namespace so it's working properly.

[CategoryTheory.EnoughInjectives](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Preadditive/Injective/Basic.html#CategoryTheory.EnoughInjectives) is Prop, so the statement doesn't depend on specific proofs of the Prop.
